US08497368B2
1-(3-(Quinolin-6-ylmethyl)imidazo[1,2-a]pyrimidin-6-yl)ethanone (51.2)
A solution of 6-((6-bromoimidazo[1,2-a]pyrimidin-3-yl)methyl)quinoline and 6-(6-bromo-imidazo[1,2-a]pyrimidin-2-ylmethyl)quinoline (mixture, 250 mg, 0.737 mmol), PdCl2(PPh3)2 (51.7 mg, 0.074 mmol) and tributyl(1-ethoxyvinyl)stannane (399 mg, 1.106 mmol) in 5 mL of 1,4-dioxane was heated at 80° C. for 12 h under N2. The reaction mixture was diluted with EtOAc, washed with water. The organic layer was dried over Na2SO4, filtered and concentrated in vacuo. The residue was dissolved in HOAc and 3 N HCl and stirred at room temperature for 3 hours. The solvent was removed under reduced pressure and the residue was dissolved in CH2Cl2, washed with sat. aqueous NaHCO3 and brine. The organic layer was dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by flash chromatography in silica gel eluting with a EtOAc/MeOH gradient to afford the title compound as a yellow solid. 1H-NMR (400 MHz, CDCl3) δ ppm 8.97 (d, 1H), 8.84 (d, 1H), 8.67 (d, 1H), 8.04-7.99 (m, 2H), 7.74 (s, 1H), 7.53-7.51 (m, 1H), 7.34 (dd, 1H), 7.19 (s, 1H), 4.44 (s, 2H), 2.49 (s, 3H).

reactant | 6-((6-bromoimidazo[1,2-a]pyrimidin-3-yl)methyl)quinoline | BrC=1C=NC=2N(C1)C(=CN2)CC=2C=C1C=CC=NC1=CC2 | C16H11BrN4
reactant | 6-(6-bromo-imidazo[1,2-a]pyrimidin-2-ylmethyl)quinoline | 0.737 mmol, 250 mg | BrC=1C=NC=2N(C1)C=C(N2)CC=2C=C1C=CC=NC1=CC2 | C16H11BrN4
reactant | tributyl(1-ethoxyvinyl)stannane | 1.106 mmol, 399 mg | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | PdCl2(PPh3)2 | 0.074 mmol, 51.7 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-(3-(Quinolin-6-ylmethyl)imidazo[1,2-a]pyrimidin-6-yl)ethanone | N1=CC=CC2=CC(=CC=C12)CC1=CN=C2N1C=C(C=N2)C(C)=O | C18H14N4O
